US06436923B1
Synthesis of N-(Carbamoylmethyl)-2-(2-(4-Fluorophenyl)-1-{4-[(2-Piperidyl)Ethoxy]Benzyl}(6-1,2,3,4-Tetrahydroisoquinolyloxy))Acetamide
To a solution of 2-(4-fluorophenyl)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinolin-6-ol (0.100 g, 0.2 mmol) in THF (1 ml) and DMF (5 drops) on ice was added sodium hydride (0.024 g, 0.6 mmol). To the flask was added bromoacetamide (0.083 g, 0.6 mmol). While warming to room temperature the reaction was allowed to sit for 6 hours. The reaction was quenched with an aqueous solution of sodium bicarbonate and extracted with dichloromethane. The organic layer was dried over MgSO4, filtered and concentrated. The product was purified by semipreparative HPLC (C-18 column, 10-100% acetonitrile/water with 0.1% trifluoroacetic acid) to yield the title compound (0.008 g, 7.0% yield):1H NMR (CDCl3) 6.6-7.3 (m, 11H), 6.0 (broad s, 2H), 5.55 (broad s, 1H), 4.7 (t, 1H), 4.5 (s, 2H), 4.1 (m, 4H), 3.5 (m, 2H), 3.05 (m, 1H), 2.9 (m, 4H), 2.65 (m, 1H), 2.55 (m, 4H), 1.65 (m, 4H), 1.5 (m, 2H); ES-MS (m/z) 575 [M+H]+.

reactant | 2-(4-fluorophenyl)-1-{4-[(2-piperidyl)ethoxy]benzyl}-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.2 mmol, 0.100 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)O)CC1=CC=C(C=C1)OCCC1NCCCC1 | C29H33FN2O2
reactant | sodium hydride | 0.6 mmol, 0.024 g | [H-].[Na+]
reactant | bromoacetamide | 0.6 mmol, 0.083 g | BrCC(=O)N | C2H4BrNO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | N-(Carbamoylmethyl)-2-(2-(4-Fluorophenyl)-1-{4-[(2-Piperidyl)Ethoxy]Benzyl}(6-1,2,3,4-Tetrahydroisoquinolyloxy))Acetamide | 0.008 g, 7.0% yield | C(N)(=O)CNC(COC=1C=C2CCN(C(C2=CC1)CC1=CC=C(C=C1)OCCC1NCCCC1)C1=CC=C(C=C1)F)=O | C33H39FN4O4
